Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pressure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___
male with with CLL, no significant cardiac history, presenting
with 2 weeks of intermittent non-radiating chest pressure.

Pain is nonexertional and does feel slightly worse with deep
inspiration, lasts for approximately 30 minutes at a time and
occurs ___ times a day.

He was seen by his primary care doctor today and noted to be in
atrial fibrillation with rates ~70, which is new for him,
subsequently returned to sinus rhythm, sent to ___ for
further evaluation of this new intermittent A. fib. 

Patient denies any history of blood clots, however has been
somewhat sedentary since breaking his hip last year. On
evaluation in the ED asymptomatic without chest pressure or
shortness of breath. Patient without dysuria or urinary
frequency. 
 
In the ED

- Initial vitals: 98.9  64  126/73  18  96% RA 

- Labs/studies notable for:
- WBC 63.0, 90% lymph (baseline
- Hb 9.9
- Plt 94
- Trop 0.02 -> 0.02
- Dimer 517
- BNP 1027
- Electrolytes normal, Cr 1.1
- UE with > 182 WBC, RBC, ___

- Patient was given:
___ 00:03 PO TraMADol 50 mg  
___ 00:03 PO/NG Aspirin 324 mg 

- Vitals on transfer: 98.4  64  142/77  16  96% RA 

- ED course: Plan: CHADsVASc 3, Atrius cardiology consulted,
discussed with Dr. ___ given the patient ___ years old with
mildly elevated troponin and is blind and walks with a walker,
should be admitted for further workup as of his atrial
fibrillation and consideration of anticoagulation regimen.

On the floor, patient reports story as above. Currently
asymptomatic, no chest pain, dyspnea, palpitations.
 
Past Medical History:
Hypercholesterolemia 
Esophageal reflux 
Glaucoma 
Cornea transplant, Keratitis, Aphakia, Other optic neuritis 
Anxiety 
Constipation
HTN
Lumbar spinal stenosis 
MGUS 
CLL
 
Social History:
___
Family History:
Reviewed, none pertinent to this hospitalization
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 98.0  144/89  81  22  94ra 
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi
GI: Abdomen soft, nondistended, nontender 
EXTREMITIES: Ao cyanosis, clubbing, or edema
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
___ 1105 Temp: 98.4 PO BP: 147/76 R Sitting HR: 81 RR: 20 
O2 sat: 92% O2 delivery: RA 
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi
GI: Abdomen soft, nondistended, nontender 
EXTREMITIES: Ao cyanosis, clubbing, or edema
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
ADMISSION LABS:
___ 07:15PM BLOOD WBC-63.0* RBC-2.99* Hgb-9.9* Hct-31.1* 
MCV-104* MCH-33.1* MCHC-31.8* RDW-14.3 RDWSD-53.9* Plt Ct-94*
___ 07:15PM BLOOD Neuts-5* Bands-0 Lymphs-90* Monos-3* 
Eos-1 Baso-1 ___ Myelos-0 AbsNeut-3.15 
AbsLymp-56.70* AbsMono-1.89* AbsEos-0.63* AbsBaso-0.63*
___ 07:15PM BLOOD Hypochr-NORMAL Anisocy-OCCASIONAL 
Poiklo-OCCASIONAL Macrocy-2+* Microcy-NORMAL Polychr-NORMAL 
Ovalocy-1+* Tear Dr-1+*
___ 07:15PM BLOOD ___ PTT-24.8* ___
___ 07:15PM BLOOD Glucose-92 UreaN-26* Creat-1.1 Na-140 
K-4.0 Cl-103 HCO3-26 AnGap-11
___ 07:15PM BLOOD D-Dimer-517*

DISCHARGE LABS:
___ 06:47AM BLOOD WBC-60.7* RBC-2.95* Hgb-10.0* Hct-30.7* 
MCV-104* MCH-33.9* MCHC-32.6 RDW-14.5 RDWSD-55.1* Plt Ct-93*
___ 06:47AM BLOOD Neuts-5* Bands-0 Lymphs-95* Monos-0 Eos-0 
Baso-0 ___ Myelos-0 AbsNeut-3.04 AbsLymp-57.67* 
AbsMono-0.00* AbsEos-0.00* AbsBaso-0.00*
___ 06:47AM BLOOD Glucose-90 UreaN-25* Creat-1.0 Na-142 
K-3.9 Cl-104 HCO3-28 AnGap-10
___ 06:47AM BLOOD Calcium-9.3 Phos-3.7 Mg-2.1
___ 06:47AM BLOOD TSH-4.9*
___ 06:47AM BLOOD Free T4-0.9*

CARDIAC ENZYMES:
___ 07:15PM BLOOD cTropnT-0.02*
___ 07:15PM BLOOD CK-MB-2
___ 10:37PM BLOOD proBNP-1027*
___ 10:37PM BLOOD cTropnT-0.02*
___ 06:47AM BLOOD CK-MB-1 cTropnT-0.02*
 
Brief Hospital Course:
====================
PATIENT SUMMARY:
====================
Mr. ___ is a ___ with CLL with low platelets on high dose 
aspirin without bleeding who p/w new onset atrial fibrillation 
(asymptomatic) and 2 weeks of non-anginal chest pain.

====================
ACUTE ISSUES:
====================
# Atrial fibrillation: Patient with 2 weeks of intermittent 
chest pressure not related to activity, found by PCP to be in 
new afib with rates in 70's. DDx ischemia, structural metabolic. 
In sinus with frequent PACs and asymptomatic throughout 
admission. Troponin plateaued at 0.02, CK-MB 2, no ischemic ECG 
changes. TSH 4.9. TTE ordered but not completed prior to 
discharge, plan for outpatient TTE. Continued home diltiazem 
extended release 300mg QD for rate control. CHADS2Vasc score of 
3, started apixaban 5mg BID this admission.

#Chest pain: Patient describes pressure over left chest that has 
been occurring intermittently over the past 2 weeks. Not 
exertional or positional. No known history of CAD, mild troponin 
elevation (plateaued at 0.02), no concerning ECG changes. Pt 
feels that the chest pain is different than his typical 
heartburn/esophageal reflux. Plan for outpatient follow up and 
likely nuclear stress test. Will discharge with SL nitro, also 
trial higher dose PPI and Tums prn to treat potential GERD 
contribution.

#Asymptomatic pyuria: Patient with UA with >182 WBC and >182 RBC 
but negative for nitrites or bacteria. No fever or dysuria. 
White count difficult to interpret in setting of CLL. Urine 
culture pending at time of discharge. Antibiotics held given 
lack of symptoms or clear evidence of UTI.

# ___: Cr 1.1 from baseline 0.7, no clear inciting factor. 
Slightly improved to 1.0 after 500cc IVF.

====================
CHRONIC ISSUES:
====================
# Thrombocytopenia
# CLL: Patient with CLL, WBC had been stable in 20's for past 12 
months. At ___ Atrius oncology visit, WBC 40K, hgb-12.7, plt 
127K. Advised observation for time being. This admission 63.0 
with 90% lymphs. 

====================
TRANSITIONAL ISSUES:
====================
[] Outpatient TTE (no prior echo)
[] Consider Ziopatch as outpatient given new paroxysmal afib
[] F/u non-anginal chest pain, consider nuclear stress test
[] Check free T4 (TSH 4.9 this admission)
[] F/u urine culture
[] Check Cr in 1 week, f/u ___ (Cr 1.1 this admission from 
baseline 0.7)

 - New Meds: apixaban, saline nasal spray, calcium carbonate, 
pantoprazole, SL nitroglycerin
 - Stopped/Held Meds: aspirin, esomeprazole
 - Changed Meds: none
 - Follow-up appointments: PCP, cardiology (with Dr. ___, 
___
 - ___ Follow-up Labs Needed: electrolytes in 1 week 
(f/u Cr)
 - Incidental Findings: none
 - Discharge weight: 67.54kg
 - Discharge creatinine: 1.0

# CODE: full (presumed
# CONTACT:
 Proxy name: ___ 
 ___: son Phone: ___ 
 
___ on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Diltiazem Extended-Release 300 mg PO DAILY 
2. Senna 8.6 mg PO BID 
3. Sertraline 100 mg PO DAILY 
4. Tamsulosin 0.4 mg PO QHS 
5. Aspirin 243 mg PO DAILY 
6. TraMADol 50 mg PO BID:PRN Pain - Moderate 
7. Clotrimazole Cream 1 Appl TP BID 
8. Esomeprazole 40 mg Other DAILY 
9. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP BOTH EYES BID 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg (74 tabs) 1 tablets(s) by mouth 
twice a day Disp #*1 Dose Pack Refills:*0 
2.  Calcium Carbonate 500 mg PO QID:PRN heartburn 
RX *calcium carbonate 500 mg calcium (1,250 mg) 1 tablet(s) by 
mouth every six (6) hours Disp #*60 Tablet Refills:*0 
3.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
RX *nitroglycerin 0.3 mg 1 tablet(s) sublingually Every 5 
minutes Disp #*100 Tablet Refills:*0 
4.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 20 mg 2 tablet(s) by mouth twice a day Disp 
#*240 Tablet Refills:*0 
5.  Sodium Chloride Nasal ___ SPRY NU BID 
RX *sodium chloride 0.65 % 1 spray intranasal twice a day Disp 
#*2 Spray Refills:*0 
6.  Clotrimazole Cream 1 Appl TP BID  
7.  Diltiazem Extended-Release 300 mg PO DAILY  
8.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP BOTH EYES BID  
9.  Senna 8.6 mg PO BID  
10.  Sertraline 100 mg PO DAILY  
11.  Tamsulosin 0.4 mg PO QHS  
12.  TraMADol 50 mg PO BID:PRN Pain - Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
#Atrial fibrillation
#Chest pain
#Pyuria

SECONDARY DIAGNOSES
#Thrombocytopenia
#CLL
___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because your heart was beating in an 
irregular rhythm called atrial fibrillation and you were having 
some chest pain over the past two weeks.

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You were started on a medication called apixaban that reduces 
the risk of blood clots and stroke in patient with atrial 
fibrillation. Your previous home medication aspirin was 
discontinued because taking apixaban and aspirin together 
increases risk of bleeding.
- You were started on a nasal saline spray to help prevent 
nosebleeds, which can happen more often when you are taking 
apixaban.
- You did not have chest pain at the hospital. You should follow 
up with Dr. ___ in Cardiology clinic for further workup.
- Your heartburn medications were adjusted to see if it would 
help with the chest pain.
- You were noted to have white blood cells and red blood cells 
in your urine. There were no bacteria and no symptoms that 
suggest a urinary tract infection. You should see your 
outpatient PCP for further workup of the urine abnormalities.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- It is very important to take your apixaban twice a day to 
prevent clots and stroke.
- Please take your medications as prescribed, note that there 
have been some changes during this hospital admission.
- Please attend follow up appointments with your PCP and 
cardiologist.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  
Your ___ Healthcare Team  
 
Followup Instructions:
___